US04985427
Dihydro-1-(4-methoxyphenyl)-4-methyl-1,2,4-triazine-3,5-(2H,4H)-dione
Methyl [1-(4-methoxyphenyl)hydrazino]acetate (1.50 g) was treated with methyl isocyanate (0.85 ml) and then with sodium methoxide (from sodium (0.33 g) in methanol (15 ml)) according to the method of Example 1. The product was purified by recrystallisation from ethyl acetate to give the title compound (703 mg), m.p. 179°-181°, t.l.c. (ether) Rf 0.5.

reactant | Methyl [1-(4-methoxyphenyl)hydrazino]acetate | 1.50 g | COC1=CC=C(C=C1)N(N)CC(=O)OC | C10H14N2O3
reactant | methyl isocyanate | 0.85 ml | CN=C=O | C2H3NO
reactant | sodium methoxide | 15 ml, 0.33 g | C[O-].[Na+]
product | Dihydro-1-(4-methoxyphenyl)-4-methyl-1,2,4-triazine-3,5-(2H,4H)-dione | 703 mg | COC1=CC=C(C=C1)N1NC(N(C(C1)=O)C)=O | C11H13N3O3
